US04276417
3.3 g. of benzoic acid are dissolved in 70 ml. of methylene chloride and 2.7 g. of triethylamine. The solution is stirred and treated at 0° C. with 3.5 g. of isobutyl chloroformate in 25 ml. of methylene chloride. The mixture is then stirred at 0° C. for 30 minutes and subsequently at room temperature for 1 hour. The solution is treated with a suspension of 5 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one in 200 ml. of methylene chloride, 12.5 ml. of triethylamine and 0.6 g. of 4-dimethylaminopyridine. The mixture obtained is stirred at room temperature for 18 hours and then washed with 100 ml. of water. The organic phase is dried over magnesium sulfate and evaporated under reduced pressure. The residue obtained is purified by column chromatography, there being obtained N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide having a melting point of 182°-183° C.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide | C(C=C)N(C1=NC=2N(C(=N1)NC(C1=CC=CC=C1)=O)OC(N2)=O)CC=C | C17H16N6O3
